US04443459
Ten milliliters of benzene was added to 4.51 g of 5-butylpicolinic acid, and 9 g of thionyl chloride was further added. The mixture was heated under reflux for 22 minutes. The excess of thionyl chloride and benzene were disiled off under reduced pressure, and 10 ml of benzene was added to the residue. The mixture was cooled to 0° C. and stirred. To the solution was added dropwise a solution of 5 g of dl-α-tocopherol in 4.25 ml of pyridine to perform the reaction for 1 hour and 40 minutes. The insoluble matter was removed by filtration from the reaction mixture, and the residue was washed with water, 1 N hydrochloric acid, water, a saturated aqueous solution of sodium bicarbonate and a saturated aqueous solution of sodium chloride in this order. Benzene was distilled off, and the residue was chromatographed on a silica gel column using benzene/ethyl acetate (4:1) as an eluent to give 3.2 g of dl-α-tocopheryl 5-butylpicolinate.

reactant | benzene | Ten milliliters | C1=CC=CC=C1 | C6H6
reactant | 5-butylpicolinic acid | 4.51 g | C(CCC)C=1C=CC(=NC1)C(=O)O | C10H13NO2
reactant | thionyl chloride | 9 g | S(=O)(Cl)Cl | Cl2OS
reactant | benzene | 10 ml | C1=CC=CC=C1 | C6H6
reactant | dl-α-tocopherol | 5 g | CC1=C(C(=C2CCC(OC2=C1C)(C)CCCC(C)CCCC(C)CCCC(C)C)C)O | C29H50O2
solvent | pyridine | 4.25 ml | N1=CC=CC=C1 | C5H5N
product | dl-α-tocopheryl 5-butylpicolinate | 3.2 g | CCCCC1=CN=C(C=C1)C(=O)OC2=C(C(=C3C(=C2C)CCC(O3)(C)CCCC(C)CCCC(C)CCCC(C)C)C)C | C39H61NO3
